US04032657
40.5 g of 2,6-dichloroaniline, 21 g of sodium hydrogen carbonate and 84 ml of DL-α-bromopropionic acid methyl ester are stirred in a sulphonating flask for 2 days at 140° bath temperature. After cooling, the reaction mixture is poured into water and extracted with ethyl acetate. The combined ethyl acetate fractions are extracted once with saturated sodium chloride solution, dried over sodium sulphate and concentrated in a rotary evaporator. The excess α-bromopropionic acid methyl ester is recovered in a water-jet vacuum. The darkly coloured residue remaining is fractionally distilled in high vacuum. There is obtained 23.6 g of α-(2,6-dichloroanilino)-propionic acid methyl ester; b.p. 85°-87°/0.001 Torr.

reactant | 2,6-dichloroaniline | 40.5 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | sodium hydrogen carbonate | 21 g | C(O)([O-])=O.[Na+]
reactant | α-bromopropionic acid methyl ester | COC(C(C)Br)=O | C4H7BrO2
solvent | water | O | H2O
product | α-(2,6-dichloroanilino)-propionic acid methyl ester | 23.6 g | COC(C(C)NC1=C(C=CC=C1Cl)Cl)=O | C10H11Cl2NO2
